US09162987B2
4-Iodo-6-(2,4-difluorophenyl)pyrimidine (ACT-MIF-017)
The compound was prepared according to Example 1 using 2,4-difluorophenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 2,4-difluorophenylboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(2,4-difluorophenyl)pyrimidine | IC1=NC=NC(=C1)C1=C(C=C(C=C1)F)F | C10H5F2IN2
